US08633173B2
N-[3-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (500.0 mg, 2.347 mmol) and N-methyl-N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (800.0 mg, 2.571 mmol) in a manner analogous to Example 2c. Product isolated as a white foam (0.529 g, 71%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.57 (d, J=6.5 Hz, 1H), 8.13-8.10 (m, 1H), 8.07 (d, J=7.9 Hz, 1H), 7.75 (d, J=7.5 Hz, 1H), 7.53 (t, J=8.0 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 6.99 (t, J=6.9 Hz, 1H), 6.12 (s, 2H), 3.31 (s, 3H), 3.01 (s, 3H). MS=318 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.347 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | N-methyl-N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 2.571 mmol, 800.0 mg | CN(S(=O)(=O)C)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
product | N-[3-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | NC1=NN2C(C(=CC=C2)C=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
